US04772600
2-(4-Chlorophenyl)-N-[3-(diethylamino)propyl]-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole), 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for 2 hours with nitrogen bubbling through it. A solution of 3-diethylaminopropylamine (6.8 g, 0.0522 mole) in tetrahydrofuran (10 ml) was added and the reaction mixture was stirred at room temperature overnight under nitrogen. The reaction mixture was evaporated under reduced pressure to give a white solid. The solid was triturated with water (50 ml), filtered and rinsed twice with water, twice with a 5% potassium hydroxide solution and twice with water to yield a white solid. The solid was dissolved in hot isopropyl alcohol and filtered. Addition of water and cooling to room temperature gave a white solid which was collected by filtration and rinsed with water to give 4.33 g (61%) of a solid. A 1.0-g sample of the solid was dried at high vacuum, mp 172° -174° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-diethylaminopropylamine | 0.0522 mole, 6.8 g | C(C)N(CCCN)CC | C7H18N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-[3-(diethylamino)propyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 4.33 g, 61% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCCN(CC)CC | C21H26ClN5O
